US08809339B2
5-chloro-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-2-nitrobenzamide
Into a 250-mL round-bottom flask, was placed a solution of 5-(3,4-dimethylphenyl)pyrimidin-2-amine (1.41 g, 7.07 mmol, 1.00 equiv) in dichloromethane (90 mL), and pyridine (1.73 g, 3.00 equiv). This was followed by dropwise addition of a solution of 5-chloro-2-nitrobenzoyl chloride (1.60 g, 7.27 mmol, 1.00 equiv) in dichloromethane (30 mL) with stirring. The resulting solution was stirred overnight at 25° C. in an oil bath. The resulting solution was diluted with 60 mL of dichloromethane. The resulting mixture was washed with 1×30 mL of hydrogen chloride (aq) and 3×200 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was dissolved in 100 mL of methanol, to this was added potassium carbonate (5.12 g). The mixture was stirred for 3 h at 30° C. The resulting mixture was concentrated under vacuum and dissolved in 100 mL of ethyl acetate. The resulting mixture was washed with 3×50 mL brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product was washed with ethyl acetate:n-hexane (30 mL:30 mL). This resulted in 0.78 g (29%) of 5-chloro-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-2-nitrobenzamide as a off-white solid.

reactant | 5-(3,4-dimethylphenyl)pyrimidin-2-amine | 7.07 mmol, 1.41 g, 1.00 equiv | CC=1C=C(C=CC1C)C=1C=NC(=NC1)N | C12H13N3
reactant | pyridine | 1.73 g, 3.00 equiv | N1=CC=CC=C1 | C5H5N
reactant | 5-chloro-2-nitrobenzoyl chloride | 7.27 mmol, 1.60 g, 1.00 equiv | ClC=1C=CC(=C(C(=O)Cl)C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 5-chloro-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-2-nitrobenzamide | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=N2)C2=CC(=C(C=C2)C)C)C1)[N+](=O)[O-] | C19H15ClN4O3
